US05273972
2-(1-Piperidinylmethyl)-1-azabicyclo[2.2.2]octan-3-one oxime
A slurry of 3-quinuclidinone hydrochloride (16.2 g, 100 mmoles) in ethanol (16.5 ml) and water (7 ml) was treated with sodium hydroxide (4.0 g, 100 mmoles) and stirred for 15 minutes. Separately, a cooled (0° C.) mixture of piperidine (15 ml, 150 mmoles), water (15 ml), and ethanol (10 ml) was treated with 37% aqueous formaldehyde (11.5 ml, 150 mmoles), and the mixture was stirred at room temperature for 15 minutes. The mixtures were combined, refluxed for 45 minutes, cooled, and diluted with petroleum ether (250 ml). The organic layer was separated and the aqueous solution was extracted with petroleum ether (100 ml). The combined organic layers were dried (MgSO4), concentrated in vacuo, and dissolved in methanol (100 ml). Hydroxylamine hydrochloride (7.7 g, 110 mmoles) was added, followed by 25% sodium methoxide/methanol (2.16 g, 10 mmoles), and the mixture was stirred for 18 hours. Additional 25% sodium methoxide (21.6 g, 100 mmoles) was added, and the methanol was removed in vacuo and replaced with water (100 ml). The suspension was filtered, and the solid was collected and dried. The filtrate was saturated with sodium chloride, extracted with methylene chloride (3×100 ml), and the combined extracts were dried (Na2SO4), concentrated in vacuo, and triturated from ether. The combined solids were recrystallized from 2-propanol to yield 4.1 g (17%) of voluminous white needles, mp 196°-198° C. (dec).

reactant | 3-quinuclidinone hydrochloride | 100 mmoles, 16.2 g | Cl.N12CC(C(CC1)CC2)=O
reactant | sodium hydroxide | 100 mmoles, 4.0 g | [OH-].[Na+]
reactant | piperidine | 150 mmoles, 15 ml | N1CCCCC1 | C5H11N
reactant | formaldehyde | 150 mmoles, 11.5 ml | C=O | CH2O
reactant | Hydroxylamine hydrochloride | 110 mmoles, 7.7 g | Cl.NO
reactant | sodium methoxide methanol | 10 mmoles, 2.16 g | C[O-].[Na+].CO
reactant | sodium methoxide | 100 mmoles, 21.6 g | C[O-].[Na+]
reactant | ethanol | 16.5 ml | C(C)O | C2H6O
reactant | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 7 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 2-(1-Piperidinylmethyl)-1-azabicyclo[2.2.2]octan-3-one oxime | 4.1 g, 17% | N1(CCCCC1)CC1N2CCC(C1=NO)CC2 | C13H23N3O
